US08034812B2
Production of N-[5-({2-[(cyclopropylacetyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-methylphenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide
Using N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]-2-cyclopropylacetamide (120 mg, 0.356 mmol), 1,3-dimethyl-1H-pyrazole-5-carbonyl chloride (59 mg, 0.374 mmol) and N,N-dimethylacetamide (4.0 mL), and by a reaction in the same manner as in Example 148, the title compound (99 mg, 61%) was obtained as a pale-yellow powder.

reactant | N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]-2-cyclopropylacetamide | 0.356 mmol, 120 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(CC3CC3)=O)C=CC1 | C17H17N5O2
reactant | 1,3-dimethyl-1H-pyrazole-5-carbonyl chloride | 0.374 mmol, 59 mg | CN1N=C(C=C1C(=O)Cl)C | C6H7ClN2O
reactant | N,N-dimethylacetamide | 4.0 mL | CN(C(C)=O)C | C4H9NO
product | N-[5-({2-[(cyclopropylacetyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-methylphenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide | 99 mg, 61% | C1(CC1)CC(=O)NC=1N=C2N(N=C(C=C2)OC=2C=CC(=C(C2)NC(=O)C2=CC(=NN2C)C)C)C1 | C24H25N7O3
